US05596025
Preparation of Various Dyes Preparation of: 2-Chloro-4-[[2-methyl-4-(diethylamino)phenyl]imino]-2,5-cyclohexadien-1-one:
1450 parts K3Fe(CN)6, 595 parts Na2CO3, and 4150 parts water were added to a 12-liter round bottom flask equipped with a mechanical stirrer, thermometer, and addition funnel. The mixture was heated to 55° C. with stirring. A solution of 227 parts 4-(N,N-diethylamino)-2-methylaniline monohydrochloride, 128 parts o-chlorophenol, 1960 parts ethanol, and 2500 parts water was charged to the addition funnel and added dropwise to the stirred, heated solution. After the addition was complete the reaction mixture was maintained at 55° C. with stirring for 20 minutes. The warm mixture was filtered with vacuum and the resulting filter cake was placed in a solution of 296 parts ethanol and 1125 parts water to form a slurry. The dye was isolated by vacuum filtration. This process was repeated two times, first with 296 parts ethanol and 1125 parts water, then with 608 parts methanol. After the final vacuum filtration the filter cake was dried at 40° C. under vacuum for 48 hours. Yield was ~90%. The final product can be recrystallized from ethyl acetate or ethanol.

reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 4-(N,N-diethylamino)-2-methylaniline monohydrochloride | Cl.C(C)N(CC)C1=CC(=C(N)C=C1)C
reactant | o-chlorophenol | ClC1=C(C=CC=C1)O | C6H5ClO
solvent | methanol | CO | CH4O
solvent | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 2-Chloro-4-[[2-methyl-4-(diethylamino)phenyl]imino]-2,5-cyclohexadien-1-one | Yield was ~90% | ClC=1C(C=CC(C1)=NC1=C(C=C(C=C1)N(CC)CC)C)=O | C17H19ClN2O
